US07977477B2
136B. Synthesis of N-{3-[6-ethoxy-5-(morpholine-4-carbonyl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-2,6-difluoro-benzamide
A mixture of 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-6-ethoxy-1H-benzimidazole-5-carboxylic acid (50 mg, 0.12 mmol), morpholine (13 μl, 0.14 mmol), EDC (29 mg, 0.15 mmol) and HOBt (21 mg, 0.15 mmol) in DMF (5 mL) was stirred at r.t. for 48 h. The reaction mixture was reduced in vacuo and the residue partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic layer was washed with brine, dried (MgSO4) and reduced in vacuo to give the title compound (29 mg) as a gray solid. (LC/MS: Rt 2.56, [M+H]+ 497.03).

reactant | 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-6-ethoxy-1H-benzimidazole-5-carboxylic acid | 0.12 mmol, 50 mg | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=C(C(=C3)C(=O)O)OCC)C(=CC=C1)F | C20H15F2N5O4
reactant | morpholine | 0.14 mmol, 13 μl | N1CCOCC1 | C4H9NO
reactant | EDC | 0.15 mmol, 29 mg
reactant | HOBt | 0.15 mmol, 21 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-{3-[6-ethoxy-5-(morpholine-4-carbonyl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-2,6-difluoro-benzamide | 29 mg | C(C)OC=1C(=CC2=C(NC(=N2)C2=NNC=C2NC(C2=C(C=CC=C2F)F)=O)C1)C(=O)N1CCOCC1 | C24H22F2N6O4
